2101-05-19 07:52:00 Physician Resident Progress Note
Chief Complaint: fever
   24 Hour Events:
   - Levophed started ~9:30pm
   - Total IVF (ED + ICU): 8 liters
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2101-5-18**] 11:27 PM (D1 = [**5-18**])
   Vancomycin - [**2101-5-19**] 07:35 AM (D1 = [**5-18**])
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min (now off)
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2101-5-19**] 07:35 AM
   Heparin Sodium (Prophylaxis) - [**2101-5-19**] 07:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2101-5-19**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.1
C (98.8
   HR: 101 (93 - 120) bpm
   BP: 91/58(66) {90/42(53) - 121/63(76)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 14 (6 - 14)mmHg
   Total In:
                                                                  7,151 mL
                                                                  2,332 mL
   PO:
   TF:
   IVF:
                                                                  3,151 mL
                                                                  2,332 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                  1,770 mL
   Urine:
                                                                  1,150 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,951 mL
                                                                    562 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   Awake and interactive
   RIJ in place
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally no rales/wheezing
   Abd soft +bowel sounds ostomy in place, suprapubic cath in place, mild
   LLQ tenderness
   Extrem Warm nontender +bowel sounds palpable distal pulses
   Labs / Radiology
   217 K/uL
   9.4 g/dL
   111 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.3 mEq/L
   7 mg/dL
   110 mEq/L
   141 mEq/L
   27.7 %
   15.3 K/uL
        [image002.jpg]
                             [**2101-5-19**]  03:26 AM
   WBC
   15.3
   Hct
   27.7
   Plt
   217
   Cr
   0.8
   Glucose
   111
   Other labs: PT / PTT / INR:15.7/31.6/1.4, ALT / AST:31/22, Alk Phos / T
   Bili:91/0.7, Lactic Acid:1.3 mmol/L, LDH:131 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.2 mg/dL, PO4:3.6 mg/dL
   Micro
   [**5-18**] blood cx NGTD
   [**5-18**] urine cx NGTD
   CT abdomen/pelvis
   1. Extensive post-surgical changes following scrotal debridement
   without
   definite evidence of Fournier gangrene. Heterogeneous thickening along
   the
   lower anterior pelvic wall with small seroma versus small abscess.
   Evaluation
   limited due to streak artifact from ORIF hardware.
   2. Osseous lucency at the left posterior femoral head. Findings are
   worrisome
   for osteomyelitis. Recommend clinical correlation.
   3. Status post diverting colostomy with mucus fistula.
   4. Old pelvic fractures s/p ORIF, left femoral head fracture, old right
   lumbar transverse process fractures.
   46M with a history of recent trauma and resulting bladder rupture
   requiring SPT, now presenting with sepsis.
   1. Sepsis/UTI.  WBC increased this morning.  P/w fever and
   tachycardia.  Lactate mildly elevated (2.6) on admission.  Given
   history of recent urologic manipulation (supra-pubic tube) and positive
   UA, most likely urosepsis.  Given recent surgery consider also wound
   infection. No cough to suggest pna, no diarrhea worrisome for C diff
   colitis. In the ED, initially was tachycardic with a normal BP though
   his blood pressure declined and a CVL was placed.  Received 8L of fluid
   in initial course but was weaned off of levophed quickly.
   - Empiric coverage: GNR with pip/tazo (D1: [**5-18**]); recieved vancomcycin
   in the ED and though MRSA is less likely at this point, will continue
   for now as has been hospitalized/ in rehab recently
   - Aggressive IVF for CVP >12
   - Maintain MAP>65 with use of pressors prn
   - Blood cultures, urine culture, MRSA swab pending
   - Surgery following
 discuss abdominal wall findings regarding
   ?abscess vs seroma on CT
   2. Anemia:  Mildly microcytic and stable from [**Month (only) 230**] admission.  On iron
   as outpatient.
   - Hct down today in the setting of massive volume resuscitation
   - Maintain active T+S, transfuse hct >25
   3. s/p Pelvic fracture: Has IVC filter for DVT prophylaxis and was
   systemically anticoagulated prior to yesterday's procedure (also for
   prophylaxis).
   - re-start coumadin
   - will need outpt f/u for IVC filter removal
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2101-5-18**] 09:00 PM
   20 Gauge - [**2101-5-18**] 09:00 PM
   RIJ Multi Lumen - [**2101-5-18**] 09:38 PM
   Prophylaxis:
   DVT: Boots, sc heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2101-05-20 07:50:00 Physician Resident Progress Note
Chief Complaint: Urosepsis
   24 Hour Events:
 EKG - At [**2101-5-19**] 09:00 PM
   .
   - weaned off pressors in early AM, but hypotensive again by evening
   therefore not called out
   - urine culture growing pseudomonas, sensitivities pending
   - in setting of hemodynamic instability and pseudomonas elected to
   start 2nd [**Doctor Last Name 23**] so now also getting ciprofloxacin
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-5-19**] 08:00 PM
   Vancomycin - [**2101-5-19**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2101-5-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2101-5-19**] 11:08 AM
   Heparin Sodium (Prophylaxis) - [**2101-5-19**] 03:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-5-20**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 87 (70 - 107) bpm
   BP: 105/68(76) {79/46(56) - 133/76(89)} mmHg
   RR: 17 (0 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (7 - 17)mmHg
   Total In:
                                                                  6,550 mL
                                                                    602 mL
   PO:
                                                                  1,110 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  5,440 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  5,010 mL
                                                                    880 mL
   Urine:
                                                                  4,860 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,540 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   Awake and interactive but pale, shivering, appears toxic, diaphoretic
   RIJ in place
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally no rales/wheezing but decreased breath sounds
   at R base
   Abd soft +bowel sounds ostomy in place, suprapubic cath in place, mild
   diffuse tenderness w/ some rebound but no guarding
   Extrem Warm nontender +bowel sounds palpable distal pulses
   Labs / Radiology
   214 K/uL
   9.0 g/dL
   127 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   4 mg/dL
   104 mEq/L
   137 mEq/L
   26.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2101-5-19**]  03:26 AM
                             [**2101-5-19**]  04:30 PM
                             [**2101-5-20**]  03:13 AM
   WBC
   15.3
   15.0
   Hct
   27.7
   25.7
   26.6
   Plt
   217
   214
   Cr
   0.8
   0.7
   0.7
   Glucose
   111
   137
   127
   Other labs: PT / PTT / INR:14.4/31.6/1.3, ALT / AST:31/22, Alk Phos / T
   Bili:91/0.7, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:131 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Imaging: [**5-18**] CXR
   FINDINGS: Frontal view of the chest is obtained. Right IJ central
   venous
   catheter is seen with its tip in the expected region of the SVC. Lungs
   are
   clear bilaterally without evidence of consolidation or pneumothorax.
   Cardiomediastinal silhouette is normal. Bony structures appear intact.
   The
   very upper portion of the IVC filter is noted at the lower edge of the
   film.
   IMPRESSION: Right IJ central venous catheter in appropriate position.
   No
   pneumothorax.
   Microbiology: [**5-18**], [**5-19**] Blood cx NGTD
   [**2101-5-18**] 4:10 pm URINE     Site: CATHETER
      URINE CULTURE (Preliminary):
         PSEUDOMONAS AERUGINOSA.    >100,000 ORGANISMS/ML..
   [**5-19**] MRSA screen pending
   Assessment and Plan
   46M with a history of recent trauma and resulting bladder rupture
   requiring SPT, now presenting with sepsis.
   1. Sepsis/UTI.  WBC increased this morning.  P/w fever and
   tachycardia.  Lactate mildly elevated (2.6) on admission.  Given
   history of recent urologic manipulation (supra-pubic tube) and positive
   UA, most likely urosepsis.  Given recent surgery consider also wound
   infection. No cough to suggest pna, no diarrhea worrisome for C diff
   colitis. In the ED, initially was tachycardic with a normal BP though
   his blood pressure declined and a CVL was placed.  Received 8L of fluid
   in initial course but was weaned off of levophed quickly.
   - Empiric coverage: GNR with pip/tazo (D1: [**5-18**]); recieved vancomcycin
   in the ED and though MRSA is less likely at this point, will continue
   for now as has been hospitalized/ in rehab recently
   - Aggressive IVF for CVP >12
   - Maintain MAP>65 with use of pressors prn
   - Blood cultures, urine culture, MRSA swab pending
   - Surgery following
 discuss abdominal wall findings regarding
   ?abscess vs seroma on CT
   2. Anemia:  Mildly microcytic and stable from [**Month (only) 230**] admission.  On iron
   as outpatient.
   - Hct down today in the setting of massive volume resuscitation
   - Maintain active T+S, transfuse hct >25
   3. s/p Pelvic fracture: Has IVC filter for DVT prophylaxis and was
   systemically anticoagulated prior to yesterday's procedure (also for
   prophylaxis).
   - re-start coumadin
   - will need outpt f/u for IVC filter removal
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2101-5-18**] 09:00 PM
   Multi Lumen - [**2101-5-18**] 09:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2101-05-20 10:57:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note bellow.
   Chief Complaint:  Urosepsis
   HPI: Mr [**Known lastname 1930**] is a 46 year-old man with a history of complex pelvic
   fracture, T12-L5 fx and ruptured bladder after an MVA, who presents
   with fever/sepsis.
   24 Hour Events:
   Continued pressor requirement off and on.  Urine growing pseudomonis,
   also with diffuse abdominal pain.
   Spoke with surgery and urology regarding seroma in anterior abdominal
   wall
   UA with trichamonous present
   Continued penile spasm
 EKG - At [**2101-5-19**] 09:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2101-5-20**] 08:10 AM
   Vancomycin - [**2101-5-20**] 10:01 AM
   Ciprofloxacin - [**2101-5-20**] 10:33 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2101-5-19**] 11:08 AM
   Heparin Sodium (Prophylaxis) - [**2101-5-19**] 03:27 PM
   Other medications:
   celexa
   protonix
   zosyn 4.5 Q8hr
   Cipro 400 mg Q12
   vanc 1g Q12
   Hep 5K tid
   lidoderm patch to back
   Percocet 2 tabs Q4hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-5-20**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.7
   HR: 102 (70 - 109) bpm
   BP: 112/72(81) {79/46(56) - 133/76(89)} mmHg
   RR: 15 (0 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 1 (1 - 17)mmHg
   Total In:
                                                                  6,921 mL
                                                                  1,801 mL
   PO:
                                                                  1,110 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  5,811 mL
                                                                  1,501 mL
   Blood products:
   Total out:
                                                                  5,010 mL
                                                                  1,190 mL
   Urine:
                                                                  4,860 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,911 mL
                                                                    611 mL
   Respiratory support
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Gen: Awake and interactive and very pale
   HEENT: RIJ in place
   CV: Regular S1 S2 no m/r/g
   Lungs: clear bilaterally no rales/wheezing
   Abd: soft +bowel sounds ostomy in place,  abdominal pain RLQ tender
   Extrem:  Warm nontender, palpable distal pulses
   Labs / Radiology
   9.0 g/dL
   214 K/uL
   127 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   4 mg/dL
   104 mEq/L
   137 mEq/L
   26.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2101-5-19**]  03:26 AM
                             [**2101-5-19**]  04:30 PM
                             [**2101-5-20**]  03:13 AM
   WBC
   15.3
   15.0
   Hct
   27.7
   25.7
   26.6
   Plt
   217
   214
   Cr
   0.8
   0.7
   0.7
   Glucose
   111
   137
   127
   Other labs: PT / PTT / INR:14.4/31.6/1.3, ALT / AST:31/22, Alk Phos / T
   Bili:91/0.7, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:131 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Micro-+ Pseudomonus
   Blood cx negative
   Assessment and Plan
   46M with a history of recent trauma and resulting bladder rupture
   requiring SPT, now presenting with sepsis.
   1. Sepsis/UTI.  Elevated WBC (though not >12) with left shift, fever
   and tachycardia.  Lactate mildly elevated (2.6).  Given history of
   recent urologic manipulation and positive UA, most likely urosepsis.
   Given recent surgery consider also wound infection on CT but hx more
   suggestive of urinary source.
   - Continue empiric coverage: GNR with pip/tazo (D1: [**5-18**]), added cipro
   and d
c  vancomcycin
   -Follow culture data
   -Bolus for hypotension
   - Maintain MAP>65 with use of pressors, weaning as tolerated
   - Surgery following
 discuss abdominal wall findings regarding
   ?abscess vs seroma on CT with them
   -Trich on UA will start flagyl.
   2. Anemia:  Mildly microcytic and stable from [**Month (only) 230**] admission.  On iron
   as outpatient.
   - Hct down today in the setting of massive volume resuscitation
   - Maintain active T+S, transfuse hct >25
   3. s/p Pelvic fracture: Has IVC filter and was systemically
   anticoagulated prior to yesterday's procedure.
   - Will restart coumadin and consider restarting
   4. Pain-Will treat with MS IR for now and consider longer acting meds.
   ICU Care
   Nutrition: eating as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-5-18**] 09:00 PM
   Multi Lumen - [**2101-5-18**] 09:38 PM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Possible [**Hospital **] transfer to floor.
   Total time spent:  25 mins

2101-05-21 07:20:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   - Urine culture w/ pseudomonas sensitive to zosyn but resistent to
   cipro so d/c'd cipro
   - Hypoxia noted on vitals w/ some new dyspnea so CXR obtained w/ new
   RLL infiltrate (this prevented him from being called out overnight)
   - Switched to dilaudid IV for pain control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-5-20**] 10:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2101-5-21**] 12:00 AM
   Vancomycin - [**2101-5-21**] 01:17 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2101-5-21**] 05:14 AM
   Other medications:
   Changes to medical and family history:  None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Continues to have penile pain.  No SOB/CP.
   Flowsheet Data as of  [**2101-5-21**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 69 (58 - 109) bpm
   BP: 109/63(74) {98/52(65) - 132/79(90)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 16 (1 - 16)mmHg
   Total In:
                                                                  3,914 mL
                                                                    820 mL
   PO:
                                                                    800 mL
   TF:
   IVF:
                                                                  3,114 mL
                                                                    820 mL
   Blood products:
   Total out:
                                                                  2,890 mL
                                                                  1,295 mL
   Urine:
                                                                  2,790 mL
                                                                  1,295 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,024 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   GEN:  Awake, alert, lying on side.  In no distress.
   NECK:  RIJ in place
   CV:  Regular S1 S2 no m/r/g
   LUNGS:  Clear bilaterally no rales/wheezing.
   ABD:  Soft +bowel sounds ostomy in place, suprapubic cath in place,
   mild diffuse tenderness w/ some rebound but no guarding
   EXT:  Warm nontender +bowel sounds palpable distal pulses
   Labs / Radiology
   182 K/uL
   8.7 g/dL
   95 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.4 mEq/L
   5 mg/dL
   105 mEq/L
   139 mEq/L
   26.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2101-5-19**]  03:26 AM
                             [**2101-5-19**]  04:30 PM
                             [**2101-5-20**]  03:13 AM
                             [**2101-5-21**]  03:13 AM
   WBC
   15.3
   15.0
   7.7
   Hct
   27.7
   25.7
   26.6
   26.1
   Plt
   [**Telephone/Fax (3) 5986**]
   Cr
   0.8
   0.7
   0.7
   0.7
   Glucose
   111
   137
   127
   95
   Other labs: PT / PTT / INR:13.3/28.4/1.1, ALT / AST:31/22, Alk Phos / T
   Bili:91/0.7, Differential-Neuts:88.0 %, Lymph:7.9 %, Mono:3.1 %,
   Eos:0.9 %, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:131 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Micro:
   Urine ([**5-18**]):  pseudomonas (resistent to cipro and intermediate to
   [**Last Name (un) **])
   Blood ([**5-18**], [**5-19**]):  NGTD
   Assessment and Plan
   46M with a history of recent trauma and resulting bladder rupture
   requiring SPT, now presenting with sepsis.
   #  Urosepsis  Likely secondary to Pseudomonas UTI. Also with ?abdominal
   abscess versus seroma on CT scan
   - Continue Zosyn based on sensitivities
   - Urology and gen surgery recommendations appreciated. Currently no
   plan to drain fluid collection, but would revisit if fevers persist.
   # Pneumonia.  Noted to be hypoxic ([**5-20**]) with possible RLL pneumonia.
   - Given this would like be HAP, continue with vancomycin and Pip/Tazo
   # Pain control.  Has chronic back pain bothering him in bed, but also
   abdominal discomfort and penile pain.
   - Continue dilaudid
   - Continue pyridium for dysuria.
   # Trichomonas.  Found to have trichomonas on UA
   - Got metronidazole 2000mg x1.
   - should get screening for other STDs as outpatient
   # Anemia:  Mildly microcytic and stable from [**Month (only) 230**] admission.  On iron
   as outpatient.
   - Hct down today in the setting of massive volume resuscitation
   - Maintain active T+S, transfuse hct >25
   #  s/p Pelvic fracture: Has IVC filter for DVT prophylaxis and was
   systemically anticoagulated prior to yesterday's procedure (also for
   prophylaxis).
   - holding coumadin given likelihood that he might need abdominal
   surgery to reconnect ostomy during this hospitalization
   - Will need outpt f/u for IVC filter removal
   ICU Care
   Nutrition:  Regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2101-5-18**] 09:00 PM
   Multi Lumen - [**2101-5-18**] 09:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds
   Code status:   Full code
   Disposition :  Call out to floor.

2101-05-21 10:39:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46M with pseudomonal uti and sepsis after suprapubic , now improved
   24 Hour Events:
   ucx positive
   feeling better, nause resolved
   treated for trich
   started on tx for ha-pna
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-5-20**] 10:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2101-5-21**] 12:00 AM
   Vancomycin - [**2101-5-21**] 01:17 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2101-5-21**] 09:15 AM
   Other medications:
   celexa, protonix, sqh, pip, lidoderm td, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: No(t) NPO
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2101-5-21**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.2
C (97.2
   HR: 110 (58 - 110) bpm
   BP: 113/75(84) {98/52(65) - 132/79(90)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 16 (2 - 16)mmHg
   Total In:
                                                                  3,914 mL
                                                                    971 mL
   PO:
                                                                    800 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,114 mL
                                                                    851 mL
   Blood products:
   Total out:
                                                                  2,890 mL
                                                                  1,595 mL
   Urine:
                                                                  2,790 mL
                                                                  1,595 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,024 mL
                                                                   -624 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : )
   Abdominal: Tender: mild epigastric, improved
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   182 K/uL
   95 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.4 mEq/L
   5 mg/dL
   105 mEq/L
   139 mEq/L
   26.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2101-5-19**]  03:26 AM
                             [**2101-5-19**]  04:30 PM
                             [**2101-5-20**]  03:13 AM
                             [**2101-5-21**]  03:13 AM
   WBC
   15.3
   15.0
   7.7
   Hct
   27.7
   25.7
   26.6
   26.1
   Plt
   [**Telephone/Fax (3) 5986**]
   Cr
   0.8
   0.7
   0.7
   0.7
   Glucose
   111
   137
   127
   95
   Other labs: PT / PTT / INR:13.3/28.4/1.1, ALT / AST:31/22, Alk Phos / T
   Bili:91/0.7, Differential-Neuts:88.0 %, Lymph:7.9 %, Mono:3.1 %,
   Eos:0.9 %, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:131 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Imaging: no new; RLL infiltrate (new)
   Microbiology: awainting sputum speciation
   Assessment and Plan
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACUTE PAIN
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   46M with pseudomonal uti and sepsis after change of suprapubic catheter
   changed:
   SEPSIS: resolved
   -cont [**10-19**] day course of abx
   -urol outpatient
   PNA:
   -treat for PNA for 7 days
   PAIN: pelvic/penis
   -dilaudid
   -treat trich
   IVC FILTER / PELVIX FX
   -holding coumadin for possible surgery procedure
   ACCESS
   -change to peripherals and d/c central
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2101-5-18**] 09:00 PM
   Multi Lumen - [**2101-5-18**] 09:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes